US06583156B1
4-(2,8-Bis(trifluoromethyl)-4-quinolinyl)-4-piperidinol
A solution of 1-benzyl-4-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-piperidinol (480 mg, 1.06 mmol) and palladium hydroxide (100 mg) in MeOH (25 mL) was stirred vigorously under an atmosphere of hydrogen (using balloons) for 3 h, filtered through a pad of celite and concentrated in vacuo. The resulting viscous syrup was triturated with ether to give the title compound (241 mg, 63%) as a pale-grey solid: mp 210-220° C. (dec); IR νmax (Nujol)/cm−1 3406, 2924, 1458, 1313, 1154 and 823; NMR δH (400 MHz, DMSO-d6) 1.89 (2H, d, J 13.1 Hz), 2.11-2.19 (2H, m), 2.85 (2H, br d, J 10.0 Hz), 3.05-3.10 (2H, m), 5.73 (1H, s), 7.90 (1H, t, J 8.6 Hz), 8.03 (1H, s), 8.34 (1H, d, J 7.0 Hz) and 9.34 (1H, d, J 8.3 Hz).

reactant | 1-benzyl-4-(2,8-bis(trifluoromethyl)-4-quinolinyl)-4-piperidinol | 1.06 mmol, 480 mg | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC(=NC2=C(C=CC=C12)C(F)(F)F)C(F)(F)F | C23H20F6N2O
solvent | MeOH | 25 mL | CO | CH4O
catalyst | palladium hydroxide | 100 mg | [OH-].[Pd+2].[OH-]
product | 4-(2,8-Bis(trifluoromethyl)-4-quinolinyl)-4-piperidinol | 241 mg, 63% | FC(C1=NC2=C(C=CC=C2C(=C1)C1(CCNCC1)O)C(F)(F)F)(F)F | C16H14F6N2O
